US05739132
0.70 g of phenylacetic acid chloride dissolved in 5 ml of dichloroethane was added under ice cooling to 1.00 g of 2-(1,3-isoindolinedion-2-yl)indane and 1.27 g of anhydrous aluminum chloride suspended in 15 ml of dichloroethane, and the mixture was stirred at the same temperature for 2 hours and then at room temperature for l hour. The reaction mixture was poured into ice water and extracted with chloroform. After the organic layer was washed with water and dried, the solvent was removed. The resulting crystals were recrystallized from ethyl acetate to obtain 1.05 g of 2-(1,3-isoindolinedion-2-yl)-5-(2-phenylacetyl)indane.

reactant | phenylacetic acid chloride | 0.70 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 2-(1,3-isoindolinedion-2-yl)indane | 1.00 g | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=CC=C2C1)=O | C17H13NO2
reactant | aluminum chloride | 1.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | 2-(1,3-isoindolinedion-2-yl)-5-(2-phenylacetyl)indane | 1.05 g | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)C(CC1=CC=CC=C1)=O)=O | C25H19NO3
